US04675334
1-{2-Hydroxy-3-propyl-4-[4-(1H-tetrazol-5-ylthiomethyl)phenylmethoxy]phenyl}ethanone
1-[2-Hydroxy-3-propyl-4-(4-thiocyanomethylphenylmethoxy)phenyl]ethanone (6.0 g; 0.017 m) was dissolved in dioxan:water (80:20; 100 ml) to which was added sodium azide (4.4 g; 0.068 m) and ammonium chloride (1.8 g; 0.034 m). The resulting solution was heated at 89° C. for 18 hours, cooled and poured onto water. The resulting solution was acidified with concentrated hydrochloric acid, filtered and washed with water to leave a white solid. Recrystallised from methanol to give a cream crystalline solid m.p. 160°-161° C.

reactant | 1-[2-Hydroxy-3-propyl-4-(4-thiocyanomethylphenylmethoxy)phenyl]ethanone | 6.0 g | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)CSC#N)C(C)=O | C20H21NO3S
reactant | sodium azide | 4.4 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.8 g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxan water | 100 ml | O1CCOCC1.O
product | 1-{2-Hydroxy-3-propyl-4-[4-(1H-tetrazol-5-ylthiomethyl)phenylmethoxy]phenyl}ethanone | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)CSC1=NN=NN1)C(C)=O | C20H22N4O3S
